US04017492
In the manner given in Example 14, 7-(trifluoromethyl)-2-[[1-carboxy-3-(dipropylamino)propylidene]-hydrazino]-5-(o-fluorophenyl)-3H-1,4-benzodiazepine can be treated with ethereal diazomethane to give 7-(trifluoromethyl)-2-[[1-(methoxycarbonyl)-3-(dipropylamino)propylidene]hydrazino]-5-(o-fluorophenyl)-3H-1,4-benzodiazepine.

reactant | 7-(trifluoromethyl)-2-[[1-carboxy-3-(dipropylamino)propylidene]-hydrazino]-5-(o-fluorophenyl)-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NN=C(CCN(CCC)CCC)C(=O)O)C2=C(C=CC=C2)F)C1)(F)F | C26H29F4N5O2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | 7-(trifluoromethyl)-2-[[1-(methoxycarbonyl)-3-(dipropylamino)propylidene]hydrazino]-5-(o-fluorophenyl)-3H-1,4-benzodiazepine | FC(C=1C=CC2=C(C(=NCC(=N2)NN=C(CCN(CCC)CCC)C(=O)OC)C2=C(C=CC=C2)F)C1)(F)F | C27H31F4N5O2
